US04888043
A solution of 2-propionyl-3-hydroxy-5-(3-amino-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (0.5 g, 1.66 mmol) in trifluoroacetic anhydride (2 ml) was stirred at 20° for 48 hr. Water was then added and the aqueous layer extracted with chloroform. The organic layer was washed extensively with water, dried over sodium sulfate and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (elution with an increasing gradient of ethylacetate in dichloromethane) to yield 2-propionyl-3-hydroxy-5-(3-trifluoroacetamido-2,4,6-trimethylphenyl)cyclohex-2-en- 1-one as a yellow solid (0.29 g, 44%). The compound was characterized by proton magnetic resonance spectroscopy (CDCl3, δ in ppm): 1.16 (3H,t), 2.16 (3H,s); 2.21 (3H,s); 2.26 (3H,s); 2.4-4.1 (7H,m); 6.89 (1H,s); 8.50 (1H,s); 18.15 (1H,s).

reactant | 2-propionyl-3-hydroxy-5-(3-amino-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 1.66 mmol, 0.5 g | C(CC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)N)C)=O | C18H23NO3
reactant | Water | O | H2O
reactant | trifluoroacetic anhydride | 2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2-propionyl-3-hydroxy-5-(3-trifluoroacetamido-2,4,6-trimethylphenyl)cyclohex-2-en- 1-one | 0.29 g, 44% | C(CC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)NC(C(F)(F)F)=O)C)=O | C20H22F3NO4
